US05686609
A) 1-Amino-4-(4-benzylpiperidin-1-yl)-2-(3,4-dichlorophenyl)butane dihydrochloride
14.5 g of 4-(4-benzylpiperidin-1-yl)-2-(3,4-dichlorophenyl)butyronitrile hydrochloride are dissolved in 400 ml of 95° ethanol. A solution of 20 ml of concentrated ammonia in 40 ml of water and Raney nickel (10% by weight of the amount of amine) are added to the mixture, which is then placed under a hydrogen atmosphere, with vigorous stirring, for 4 hours, after which 1.67 l of hydrogen have been consumed. After filtration of the catalyst, the filtrate is concentrated under vacuum and the residue is taken up in ethyl acetate, washed with water, dried and concentrated under vacuum. The residue is taken up in a solution of hydrogen chloride in methanol, filtered off and recrystallized from a 3/7 acetone/ether mixture.

reactant | 4-(4-benzylpiperidin-1-yl)-2-(3,4-dichlorophenyl)butyronitrile hydrochloride | 14.5 g | Cl.C(C1=CC=CC=C1)C1CCN(CC1)CCC(C#N)C1=CC(=C(C=C1)Cl)Cl
reactant | ammonia | 20 ml | N | H3N
solvent | ethanol | C(C)O | C2H6O
solvent | water | 40 ml | O | H2O
catalyst | Raney nickel | [Ni] | Ni
product | 1-Amino-4-(4-benzylpiperidin-1-yl)-2-(3,4-dichlorophenyl)butane dihydrochloride | Cl.Cl.NCC(CCN1CCC(CC1)CC1=CC=CC=C1)C1=CC(=C(C=C1)Cl)Cl | InChI=1S/C22H28Cl2N2.2ClH/c23-21-7-6-19(15-22(21)24)20(16-25)10-13-26-11-8-18(9-12-26)14-17-4-2-1-3-5-17;;/h1-7,15,18,20H,8-14,16,25H2;2*1H
